US05886014
N-t-Butoxycarbonyl-N-methyl-4-hydroxy-2,3,5-trimethylaniline
5.0 ml of triethylamine and a solution of 7.92 g of di-t-butyl dicarbonate in 30 ml of tetrahydrofuran were added at room temperature to a solution of 5.0 g of N-methyl-4-hydroxy-2,3,5-trimethylaniline (prepared as described in Preparation 14) in 70 ml of tetrahydrofuran, and the resulting mixture was stirred for 1 hour, after which it was allowed to stand overnight. At the end of this time, the reaction mixture was freed from the solvent by distillation under reduced pressure, and the resulting residue was mixed with water. The aqueous mixture was extracted with ethyl acetate. The extract was washed with water and with a saturated aqueous solution of sodium chloride, in that order, after which it was dried over anhydrous magnesium sulfate. After distilling off the solvent, the residual crystals were triturated with hexane and collected by filtration. There were obtained 7.35 g of the title compound, melting at 163°-166° C.

reactant | triethylamine | 5.0 ml | C(C)N(CC)CC | C6H15N
reactant | di-t-butyl dicarbonate | 7.92 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | N-methyl-4-hydroxy-2,3,5-trimethylaniline | 5.0 g | CNC1=C(C(=C(C(=C1)C)O)C)C | C10H15NO
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
product | N-t-Butoxycarbonyl-N-methyl-4-hydroxy-2,3,5-trimethylaniline | 7.35 g | C(C)(C)(C)OC(=O)N(C1=C(C(=C(C(=C1)C)O)C)C)C | C15H23NO3
